US07781454B2
Step 3: 3-{[5-Chloro-4-(3-chloro-5-cyanophenoxy)-1H-indazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-6-aminium chloride
To 3-({1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-5-chloro-1H-indazol-4-yl}oxy)-5-chlorobenzonitrile (0.936 g, 2.079 mmol) as a solution in 20% methanol in chloroform (300 mL) was added 1N HCl (2.079 mL, 2.079 mmol), and the resulting mixture was then concentrated under reduced pressure. The resulting white paste was diluted with acetonitrile (100 mL) and the solvent evaporated in vacuo. The dilution-evaporation was repeated twice more for a total of three times. The resulting residue was placed under vacuum overnight to give product. 1H NMR (DMSO-d6): 6.7.91 (s, 1H), 7.81 (s, 3H), 7.68-7.60 (m, 2H), 7.48 (s, 1H), 7.37 (s, 1H), 6.50-6.30 (m, 2H), 6.00-5.86 (m, 2H). HRMS (M+1)=450.06

reactant | 3-({1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-5-chloro-1H-indazol-4-yl}oxy)-5-chlorobenzonitrile | 2.079 mmol, 0.936 g | NC1=CC=C2C(=N1)NN=C2CN2N=CC1=C(C(=CC=C21)Cl)OC=2C=C(C#N)C=C(C2)Cl | C21H13Cl2N7O
reactant | HCl | 2.079 mmol, 1N, 2.079 mL | Cl | ClH
solvent | methanol | CO | CH4O
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-{[5-Chloro-4-(3-chloro-5-cyanophenoxy)-1H-indazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-6-aminium chloride | [Cl-].ClC=1C(=C2C=NN(C2=CC1)CC1=NNC2=NC(=CC=C21)[NH3+])OC2=CC(=CC(=C2)C#N)Cl | InChI=1S/C21H13Cl2N7O.ClH/c22-12-5-11(8-24)6-13(7-12)31-20-15-9-26-30(18(15)3-2-16(20)23)10-17-14-1-4-19(25)27-21(14)29-28-17;/h1-7,9H,10H2,(H3,25,27,28,29);1H
